US07238716B2
A mixture of 4-(4-chloromethyl-3-methoxyphenoxymethyl)-2-phenyl-5-methyloxazole (2.08 g), methyl 2-(2-hydroxyphenyl)acetate (1.00 g), anhydrous potassium carbonate (1.65 g) and N,N-dimethylformamide (15 mL) was stirred overnight at room temperature. The reaction mixture was poured into dilute hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. To a mixture of the obtained residue, tetrahydrofuran (10 mL) and methanol (10 mL) was added a 1N aqueous sodium hydroxide solution (10 mL) and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was concentrated, and dilute hydrochloric acid was added to the residue. The precipitated solid was collected by filtration and dried with air to give crystals (1.36 g, 49%) of 2-[2-[3-methoxy-4-[(2-phenyl-5-methyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid. Recrystallization from acetone-hexane gave colorless needle crystals. melting point: 165-166° C.

reactant | 4-(4-chloromethyl-3-methoxyphenoxymethyl)-2-phenyl-5-methyloxazole | 2.08 g | ClCC1=C(C=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)OC | C19H18ClNO3
reactant | methyl 2-(2-hydroxyphenyl)acetate | 1.00 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-[2-[3-methoxy-4-[(2-phenyl-5-methyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid | 1.36 g, 49% | COC=1C=C(COC2=C(C=CC=C2)CC(=O)O)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C27H25NO6
